US04138581
Following the procedure described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride and 1-naphthalenecarbonyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(1-naphthalenecarbonyloxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with hydrochloric acid there is obtained the hydrochloride salt. When this hydrochloride is catalytically hydrogenated, using a procedure similar to that described above in Example 2B, there is obtained 3-hydroxy-4-(1-naphthalenecarbonyloxy)-alpha-(isopropylaminomethyl)benzyl alcohol hydrochloride.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | 1-naphthalenecarbonyl chloride | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | 3-hydroxy-4-(1-naphthalenecarbonyloxy)phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(=O)C1=CC=CC2=CC=CC=C12)O | C22H21NO4
